US04839365
Synthesis of 2-[(thieno[3, 2-c]pyridin-4-yl)methylsulfinyl]benzimidazole (Ic')
To a solution of 278.6 mg (0.900 mmol) of 2-[(thieno[3, 2-c]pyridin-4-yl)methylthio]benzimidazole.2/3 H2O (Ia') in 20 ml of CHCl3 and 1 ml of MeOH was added 194.1 mg (0.900 mmol) of 80% mCPBA at -10° to -15° C. and stirred for 30 minutes. To the mixture were added 2.5 ml of saturated aqueous NaHCO3 and 0.5 ml of 10 % aqueous sodium sulfite. After bringing back to room temperature, water was added thereto, and the solution was extracted with CHCl3. After drying CHCl3 layer over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure and washed with ether, whereby 274.6 mg (Yield : 92.5%) of the objective compound (Ic'), 2-[(thieno[3, 2-c]pyridin-4-yl)methylsulfinyl]benzimidazole was obtained as crystals.

reactant | 2-[(thieno[3, 2-c]pyridin-4-yl)methylthio]benzimidazole | 0.900 mmol, 278.6 mg | S1C=CC=2C(=NC=CC21)CSC=2NC1=C(N2)C=CC=C1 | C15H11N3S2
reactant | mCPBA | 0.900 mmol, 194.1 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | 2.5 ml | C(=O)(O)[O-].[Na+]
reactant | sodium sulfite | 0.5 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | MeOH | 1 ml | CO | CH4O
product | 2-[(thieno[3, 2-c]pyridin-4-yl)methylsulfinyl]benzimidazole | S1C=CC=2C(=NC=CC21)CS(=O)C=2NC1=C(N2)C=CC=C1 | C15H11N3OS2
